US07229999B2
(RS)-6-Cyclopropylmethoxy-N-(2-hydroxymethyl-butyl)-5-(4-trifluoromethyl-phenyl)-nicotinamide
The title compound was synthesized in analogy to Example 75, using 5-bromo-6-chloro-3-pyridinecarboxylic acid, hydroxymethyl-cyclopropan, 4-trifluoromethyl-phenylboronic acid and 2-(aminomethyl)-1-butanol as starting materials to yield (RS)-6-cyclopropylmethoxy-N-(2-hydroxymethyl-butyl)-5-(4-trifluoromethyl-phenyl)-nicotinamide. MS (ISP) 423.3 (M+H)+

reactant | 5-bromo-6-chloro-3-pyridinecarboxylic acid | BrC=1C=C(C=NC1Cl)C(=O)O | C6H3BrClNO2
reactant | hydroxymethyl-cyclopropan | OCC1CC1 | C4H8O
reactant | 4-trifluoromethyl-phenylboronic acid | FC(C1=CC=C(C=C1)B(O)O)(F)F | C7H6BF3O2
reactant | 2-(aminomethyl)-1-butanol | NCC(CO)CC | C5H13NO
product | (RS)-6-cyclopropylmethoxy-N-(2-hydroxymethyl-butyl)-5-(4-trifluoromethyl-phenyl)-nicotinamide | C1(CC1)COC1=NC=C(C(=O)NCC(CC)CO)C=C1C1=CC=C(C=C1)C(F)(F)F | C22H25F3N2O3
